US09403808B2
5-Cyclopropyl-6-cyclopropylmethoxy-pyrazine-2-carboxylic acid [1-methyl-1-(4-methyl-thiazol-2-yl)-ethyl]-amide
The title compound was synthesized in analogy to Example 15, using 5-cyclopropyl-6-cyclopropylmethoxy-pyrazine-2-carboxylic acid (Example 10 g; 100 mg, 0.42 mmol) and α,α,4-trimethyl-2-thiazolemethanamine (CAN 859466-62-9, 78.2 mg, 0.64 mmol) as starting materials, and isolated (12 mg, 9.22%) as colorless sticky solid, LC-MS (UV peak area, ESI) 99.24%, 373.4 (M+H).

reactant | 5-cyclopropyl-6-cyclopropylmethoxy-pyrazine-2-carboxylic acid | 0.42 mmol, 10 g | C1(CC1)C=1N=CC(=NC1OCC1CC1)C(=O)O | C12H14N2O3
reactant | α,α,4-trimethyl-2-thiazolemethanamine | 0.64 mmol, 78.2 mg | CC(N)(C=1SC=C(N1)C)C | C7H12N2S
product | 5-Cyclopropyl-6-cyclopropylmethoxy-pyrazine-2-carboxylic acid [1-methyl-1-(4-methyl-thiazol-2-yl)-ethyl]-amide | CC(C)(C=1SC=C(N1)C)NC(=O)C1=NC(=C(N=C1)C1CC1)OCC1CC1 | C19H24N4O2S
